US06005062
To a 12 liter four necked round bottom flask with a mechanical stirrer, thermometer, addition funnel and condenser, under nitrogen, was added 700 grams of (Z)-4-(tert-butylamino)-4-oxo-2-butenoic acid (4.0 moles) and 7757 grams of dichloromethane. The mixture was cooled to -5° C. and 438.6 grams of ethyl chloroformate (4.0 moles) was added. The mixture was cooled to -10° C. and 408.9 grams of triethylamine (4.0 moles) was added slowly at a rate such that the temperature remained below -7° C. Stirring was continued at -5° C. for 2.5 hours during which time the evolution of carbon dioxide was observed. The mixture was warmed to 11° C. and a premix of 272 grams of sodium bicarbonate dissolved in 3640 grams of distilled water was added. The mixture was stirred for 10 minutes, phase split, and the aqueous phase was removed. The organic phase was extracted three times with 3 L each of distilled water. The organic phase was dried with 275 grams of sodium sulfate, filtered and the solvent was removed in vacuo at 30° C. The residue was purified by distillation (50° C., 0.05 mm Hg) to give 550 grams of 5-(tert-butylimino)-2,5-dihydro-2-furanone. This material is hereinafter referred to as tert-butylisomaleimide. 13-CNMR shows this to be greater than 99% pure.

reactant | (Z)-4-(tert-butylamino)-4-oxo-2-butenoic acid | 4.0 moles, 700 grams | C(C)(C)(C)NC(\C=C/C(=O)O)=O | C8H13NO3
reactant | ethyl chloroformate | 4.0 moles, 438.6 grams | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 4.0 moles, 408.9 grams | C(C)N(CC)CC | C6H15N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium bicarbonate | 272 grams | C([O-])(O)=O.[Na+]
solvent | water | 3640 grams | O | H2O
solvent | dichloromethane | 7757 grams | ClCCl | CH2Cl2
product | 5-(tert-butylimino)-2,5-dihydro-2-furanone | 550 grams | C(C)(C)(C)N=C1C=CC(O1)=O | C8H11NO2
